US09035097B2
Preparation of 2-phenoxyethylamine using Method 3
To a 250 mL round bottom flask equipped with a thermocouple, heating mantle, nitrogen inlet/outlet, a condenser and a stir bar was added 2-oxazolidinone (14.8 g, 170 mmole), phenol (10.0 g, 106.3 mmole), potassium hydroxide (596 mg, 10.6 mmole) and ExxonMobil™ Aromatic 100 solvent (100 mL). The resulting mixture was heated to reflux temperature for 3 h. Reaction progress was monitored by TLC and 1H NMR. Once the phenol was consumed, ethylenediamine (3.6 mL, 53 mmole) was added and the reaction mixture was continued to stir at reflux temperature for 2 hrs. The reaction mixture was then cooled to room temperature. Florisil® (5 g) was added and the reaction mixture was filtered over Celite. The reactor and the filter cake were washed with ExxonMobil™ Aromatic 100 solvent (2×10 mL). The combined filtrates were concentrated under reduced pressure to give 12.3 g (84%) of the desired product as a yellow oil. Purity level was determined by NMR to be ˜95%. 1H NMR (CDCl3, 400 MHz) δ 7.22-7.14 (m, 2H), 6.89-6.77 (m, 3H), 3.80 (dd, 2H, J=5.3, 5.3 Hz)), 2.90 (dd, 2H, J=5.4, 5.4 Hz), 1.41 (bs, 2H), 13C NMR (CDCl3, 400 MHz) 158.9, 129.4, 120.7, 114.4, 70.0, 41.5, MS (ESI) for C8H11NO [M+H] calc. 137.08. found 137.56.

reactant | 2-oxazolidinone | 170 mmole, 14.8 g | O1C(NCC1)=O | C3H5NO2
reactant | phenol | 106.3 mmole, 10.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 10.6 mmole, 596 mg | [OH-].[K+]
reactant | ethylenediamine | 53 mmole, 3.6 mL | C(CN)N | C2H8N2
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
product | 2-phenoxyethylamine | 12.3 g, 84% | O(C1=CC=CC=C1)CCN | C8H11NO
